US04611023
α,α-Bis(3,5-di-tert-butyl-4-hydroxyphenylthio)toluene
The procedure of Example 1 is repeated using 23.84 grams of 2,6-di-tert-butyl-4-mercaptophenol, 5.31 grams of benzaldehyde, and 150 ml of methyl alcohol. The product is triturated with methyl alcohol to give 18.74 grams (66% yield) of white crystals, mp 122°-124° C.

reactant | 2,6-di-tert-butyl-4-mercaptophenol | 23.84 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | benzaldehyde | 5.31 grams | C(C1=CC=CC=C1)=O | C7H6O
solvent | methyl alcohol | 150 ml | CO | CH4O
product | α,α-Bis(3,5-di-tert-butyl-4-hydroxyphenylthio)toluene | 18.74 grams, 66% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C1=CC=CC=C1)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C35H48O2S2
